US08304468B2
Next, oxalyl chloride (52.2 g; 0.41 mol) was dissolved in CHCl3 (1000 ml), and cooled to 0° C. To this was slowly added a solution of 6(benzyloxy)-6-oxohexanoic acid, (81.0 g; 0.34 mol) in CHCl3 (250 ml), and stirring was continued for 18 hr at room temperature. The reaction mixture was concentrated, coevaporated with CHCl3 (2 times 250 ml), and dried in vacuo, to yield benzyl 6-chloro-6-oxohexanoate as a colourless liquid (87 g; 100%).

reactant | oxalyl chloride | 0.41 mol, 52.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6(benzyloxy)-6-oxohexanoic acid | C(C1=CC=CC=C1)OC(CCCCC(=O)O)=O | C13H16O4
solvent | CHCl3 | 1000 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl 6-chloro-6-oxohexanoate | ClC(CCCCC(=O)OCC1=CC=CC=C1)=O | C13H15ClO3
